two_source_bridge - fault test
V1 p1 0 DC 15
V2 p2 0 DC 10
R1 p1 mid1 98.602725
C3 mid1 0 5.2e-06
R2 p2 mid2 200.199768
R4 mid2 0 253.537853
R5 mid1 mid2 74.995444
.op
.control
run
print v(mid1) v(mid2) v(p1) v(p2)
print @r1[i] @r2[i] @r4[i] @r5[i]
.endc
.end
